### PR TITLE
feat: add failIfUnchanged flag to simp

### PR DESCRIPTION
**Pull request by kim-em**
This adds a flag `failIfUnchanged` to the configuration options of `dsimp` / `simp` / `simp_all`.

The followup PR https://github.com/leanprover/lean4/pull/2336 turns the flag on by default. See there for links to builds for Std and Mathlib with the flag enabled.

### CODE REVIEW

File: src/Init/Meta.lean [hunk 1]
```diff
@@ -1255,6 +1255,8 @@ structure Config where
     `simp` to visit them. If `dsimp := false`, then argument is not visited.
   -/
   dsimp             : Bool := true
+  /-- This check is implemented in `Lean.Meta.Tactic.Simp.Main`, in `simpGoal`. -/
```
Comment (digama0) [inline src/Init/Meta.lean:1258]: the comment here should describe what the flag does, not where it is implemented

Comment (semorrison) [reply src/Init/Meta.lean]: Changed. My concern was that with so many entry points into the `simp` machinery, it might be part of the specification to say which entry points were affected...

**Review by digama0 — APPROVED** [review]

File: src/Init/WFTactics.lean [hunk 2]
```diff
@@ -22,7 +22,7 @@ macro_rules | `(tactic| decreasing_trivial) => `(tactic| linarith)
 -/
 syntax "decreasing_trivial" : tactic
 
-macro_rules | `(tactic| decreasing_trivial) => `(tactic| simp (config := { arith := true }); done)
+macro_rules | `(tactic| decreasing_trivial) => `(tactic| (try simp (config := { arith := true })); done)
```
Comment (eric-wieser) [inline src/Init/WFTactics.lean:25]: Should this instead be
```suggestion
macro_rules | `(tactic| decreasing_trivial) => `(tactic| (simp (config := { arith := true, failIfUnchanged := false })); done)
```
Presumably you don't want to catch any and all failures

File: src/Init/WFTactics.lean [hunk 3]
```diff
@@ -33,7 +33,7 @@ lexicographic order lemmas and using `ts` to solve the base case. If it fails,
 it prints a message to help the user diagnose an ill-founded recursive definition. -/
 macro "decreasing_with " ts:tacticSeq : tactic =>
  `(tactic|
-   (simp_wf
+   (try simp_wf
```
Comment (eric-wieser) [inline src/Init/WFTactics.lean:36]: Same remark as [here](https://github.com/leanprover/lean4/pull/2334/files#r1269219137)

File: tests/lean/run/constProp.lean [hunk 4]
```diff
@@ -237,14 +237,14 @@ notation:60 "(" σ ", " s ")"  " ⇓ " σ':60 => Bigstep σ s σ'
 theorem Bigstem.det (h₁ : (σ, s) ⇓ σ₁) (h₂ : (σ, s) ⇓ σ₂) : σ₁ = σ₂ := by
   induction h₁ generalizing σ₂ <;> cases h₂ <;> simp_all
   -- The rest of this proof should be automatic with congruence closure and a bit of forward reasoning
-  case seq ih₁ ih₂ h₁ h₂ =>
+  case seq ih₁ ih₂ _ h₁ h₂ =>
```
Comment (leodemoura) [inline tests/lean/run/constProp.lean:240]: What is going on here? Did you investigate why you had to add these extra `_`s?

**Comment by leodemoura** [comment]
Waiting on author addressing questions above.

File: tests/lean/run/constProp.lean (hunk 4 above)
Comment (semorrison) [reply tests/lean/run/constProp.lean:240]: This is a consequence of the change to `simp_all` in https://github.com/leanprover/lean4/pull/2334/files#diff-003c74b01f7b82f8997b033dcd3d35690025c53797c5f806c6db9182952281e8.

The problem we had to address here was that `simp_all` was changing the goal unnecessarily by asserting everything and then try to clear. The solution Mario came up with only asserts the hypotheses we actually want to assert, and as a consequence of this change the order of hypotheses after `simp_all` can sometimes change a bit.

I agree this isn't ideal, but two things to note:
1) This problem didn't reappear when fixing up Mathlib to adapt to this change.
2) Arguably if you call tactics (here `simp_all`) in between `cases ...` and `case ... =>`, the onus is probably on the proof author to double check the order of hypotheses, as it's playing with fire to do this at all.

File: src/Lean/Meta/Tactic/Simp/SimpAll.lean [hunk 5]
```diff
@@ -118,17 +120,26 @@ def main : M (Option MVarId) := do
...
-    mvarId.tryClearMany (entries.map fun e => e.fvarId)
+    let mut toAssert := #[]
+    let mut toClear := #[]
+    for e in (← get).entries do
+      if e.type.consumeMData.isConstOf ``True then
+        -- Do not assert `True` hypotheses
+        toClear := toClear.push e.fvarId
+      else if e.type != e.origType then
+        toClear := toClear.push e.fvarId
+        toAssert := toAssert.push { userName := e.userName, type := e.type, value := e.proof }
```
Comment (digama0) [inline src/Lean/Meta/Tactic/Simp/SimpAll.lean:131]: > I'm sorry about this, I didn't think the hypothesis reordering would be important. One thing we could do to preserve hypothesis ordering but also preserve the property that if no hypotheses need to change then nothing is done, is to have a flag

> This change must be documented in the change log: https://github.com/leanprover/lean4/blob/master/RELEASES.md We must also document why it has been made, and add links to zulip threads where the discussion happened, and how the consensus has been reached. Reason: this change will affect (non mathlib) users.

Sorry, this is partially my fault, I didn't think the hypothesis reordering would be important. One thing we could do to preserve hypothesis ordering but also preserve the property that if no hypotheses need to change then nothing is done, is to have a flag which is set when a prior hypothesis has been rewritten and then just rewrite all subsequent hypotheses, like so:

```suggestion
    let mut modified := false
    for e in (← get).entries do
      if e.type.consumeMData.isConstOf ``True then
        -- Do not assert `True` hypotheses
        toClear := toClear.push e.fvarId
      else if modified || e.type != e.origType then
        toClear := toClear.push e.fvarId
        toAssert := toAssert.push { userName := e.userName, type := e.type, value := e.proof }
        modified := true
```
Here's a patch that will

Comment (semorrison) [reply src/Lean/Meta/Tactic/Simp/SimpAll.lean]: Okay, I've pushed this and cleaned up.

File: src/Init/WFTactics.lean [hunk 6]
```diff
@@ -22,7 +22,7 @@ macro_rules | `(tactic| decreasing_trivial) => `(tactic| linarith)
 -/
 syntax "decreasing_trivial" : tactic
 
-macro_rules | `(tactic| decreasing_trivial) => `(tactic| simp (config := { arith := true }); done)
+macro_rules | `(tactic| decreasing_trivial) => `(tactic| (simp (config := { arith := true })); done)
```
Comment (leodemoura) [inline src/Init/WFTactics.lean:25]: Why do we need the extra parentheses? Is this some kind of a workaround?

File: tests/lean/run/constProp.lean (hunk 4 above)
Comment (leodemoura) [reply tests/lean/run/constProp.lean:240]: @semorrison Notice that you are already tracking whether things changed or not. You don't need to rely on whether the `mvarId` changed or nor.

File: src/Init/WFTactics.lean (hunk 6 above)
Comment (digama0) [reply src/Init/WFTactics.lean:25]: It should be unnecessary. I believe this line was modified as part of a stage0 update (adding the flag to the config caused compiled `simp` not to match the new VM layout), and it was incompletely reverted.

File: tests/lean/run/constProp.lean (hunk 4 above)
Comment (digama0) [reply tests/lean/run/constProp.lean:240]: @leodemoura Are you referring to the `modified` flag here? That flag is not sufficient to determine whether the mvarId changed, because it only tracks changes to the hypotheses, not the goal. The main purpose of it is to ensure that if the hypotheses are not simplified then there is no needless mvarId changing, so that the mvarId check is accurate.

File: src/Init/WFTactics.lean (hunk 6 above)
Comment (semorrison) [reply src/Init/WFTactics.lean:25]:
```suggestion
macro_rules | `(tactic| decreasing_trivial) => `(tactic| simp (config := { arith := true }); done)
```

File: tests/lean/run/constProp.lean (hunk 4 above)
Comment (semorrison) [reply tests/lean/run/constProp.lean:240]: (Just noting that the extra `_`s are much reduced relative to @leodemoura's first query of this issue. Now there's just the one, instead of one in each of the cases here. There's still one, of course! Also noting that this issue does not seem to have arisen anywhere besides this file, including when we look at the [mathlib4 PR](https://github.com/leanprover-community/mathlib4/pull/6019) adapting to this change.)

Comment (leodemoura) [reply tests/lean/run/constProp.lean:240]: @semorrison It is great the issue is not affecting mathlib4, but mathlib is not the only user. Please modify the logic and ensure the order does not depend on whether a hypothesis was simplified or not. It feels like a very small change.

Comment (digama0) [reply tests/lean/run/constProp.lean:240]: @semorrison  this is strange, there should not be any `_` needed at all with the modification I suggested. "ensure the order does not depend on whether a hypothesis was simplified or not" should already be the case, and if not then there is a bug somewhere.

Comment (semorrison) [reply tests/lean/run/constProp.lean:240]: @leodemoura, @digama0, I think there's some confusion here arising from the fact that it is the *old* `simp_all` which is reordering the hypotheses, while the *new* `simp_all` preserves the order exactly.

Thus the question becomes:
* do we prefer conserving the old behaviour (which was a consequence of re-asserting everything and then calling `tryClearMany` on everything) for backwards compatibility sake, or
* do we prefer the new behaviour, which strictly preserves the order of hypotheses when possible, including in this case.

Here are the relevant fragments of the goal:
* The `seq.seq` case immediately before `simp_all`:
```
case seq.seq
σ: State
s: Stmt
σ₁σ₁✝: State
s₁✝: Stmt
σ₂✝¹: State
s₂✝: Stmt
σ₃✝: State
a✝³: (σ₁✝, s₁✝) ⇓ σ₂✝¹
a✝²: (σ₂✝¹, s₂✝) ⇓ σ₃✝
a_ih✝¹: ∀ {σ₂ : State}, (σ₁✝, s₁✝) ⇓ σ₂ → σ₂✝¹ = σ₂
a_ih✝: ∀ {σ₂ : State}, (σ₂✝¹, s₂✝) ⇓ σ₂ → σ₃✝ = σ₂
σ₂σ₂✝: State
a✝¹: (σ₁✝, s₁✝) ⇓ σ₂✝
a✝: (σ₂✝, s₂✝) ⇓ σ₂
⊢ σ₃✝ = σ₂
```

Then after the new `simp_all` (note no changes):
```
case seq.seq
σ: State
s: Stmt
σ₁σ₁✝: State
s₁✝: Stmt
σ₂✝¹: State
s₂✝: Stmt
σ₃✝: State
a✝³: (σ₁✝, s₁✝) ⇓ σ₂✝¹
a✝²: (σ₂✝¹, s₂✝) ⇓ σ₃✝
a_ih✝¹: ∀ {σ₂ : State}, (σ₁✝, s₁✝) ⇓ σ₂ → σ₂✝¹ = σ₂
a_ih✝: ∀ {σ₂ : State}, (σ₂✝¹, s₂✝) ⇓ σ₂ → σ₃✝ = σ₂
σ₂σ₂✝: State
a✝¹: (σ₁✝, s₁✝) ⇓ σ₂✝
a✝: (σ₂✝, s₂✝) ⇓ σ₂
⊢ σ₃✝ = σ₂
```

Alternatively, the behaviour of `simp_all` on master (note that `σ₂σ₂✝: State` have migrated upwards, and hence out of the range where we need to specify them as arguments to `case seq`).
```
case seq.seq
σ: State
s: Stmt
σ₁σ₁✝: State
s₁✝: Stmt
σ₂✝¹: State
s₂✝: Stmt
σ₃✝σ₂σ₂✝: State
a✝³: (σ₁✝, s₁✝) ⇓ σ₂✝¹
a✝²: (σ₂✝¹, s₂✝) ⇓ σ₃✝
a_ih✝¹: ∀ {σ₂ : State}, (σ₁✝, s₁✝) ⇓ σ₂ → σ₂✝¹ = σ₂
a_ih✝: ∀ {σ₂ : State}, (σ₂✝¹, s₂✝) ⇓ σ₂ → σ₃✝ = σ₂
a✝¹: (σ₁✝, s₁✝) ⇓ σ₂✝
a✝: (σ₂✝, s₂✝) ⇓ σ₂
⊢ σ₃✝ = σ₂
```

Comment (semorrison) [reply tests/lean/run/constProp.lean:240]: In particular, the request:

> Please modify the logic and ensure the order does not depend on whether a hypothesis was simplified or not.

is I think actually satisfied better by the new logic (which preserves order whether or not a hypothesis was simplified) than the old logic (which would sometimes change the order, whether or not a hypothesis was simplified).

Comment (semorrison) [reply tests/lean/run/constProp.lean:240]: I will add some comments in the code explaining all this.

Comment (semorrison) [reply tests/lean/run/constProp.lean:240]: I have added a simple test checking that `simp_all` now preserves order of hypothesis (which used to fail), and updated `RELEASE.md` to properly describe the new behaviour.

**Comment by leodemoura** [comment]
I am going to merge it as-is. From now on, I expect way more tests when making this kind of change. It is hard to believe 3 new `simp_all` tests covers all interesting cases.
